US08138175B2
C) {3-[(S)-4-(tert-Butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-(2,2-dimethoxy-ethyl)-amine
A solution of 3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propylamine (234 mg, 0.78 mmol) and dimethoxyacetaldehyde (45% solution in TBME, 0.20 mL, 0.78 mmol) in MeOH (3 mL) was stirred for 5 h at RT, then sodium borohydride (47 mg, 1.25 mmol) was added, then after 15 min the reaction mixture was partitioned between EtOAc and sat. aq. NaHCO3 solution. The organic layer was washed with brine, dried (MgSO4), filtered, and evaporated. Chromatography (IST Isolute® Flash NH2; EtOAc) afforded the title compound (210 mg, 69%). Light yellow gum, MS: 387.4 (M+H)+.

reactant | 3-[(S)-4-(tert-butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propylamine | 0.78 mmol, 234 mg | C(C)(C)(C)[Si](O[C@H]1C2(CC2)CCN(C1)CCCN)(C)C | C16H34N2OSi
reactant | dimethoxyacetaldehyde | 0.78 mmol, 0.20 mL | COC(C=O)OC | C4H8O3
reactant | sodium borohydride | 1.25 mmol, 47 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | {3-[(S)-4-(tert-Butyl-dimethyl-silanyloxy)-6-aza-spiro[2.5]oct-6-yl]-propyl}-(2,2-dimethoxy-ethyl)-amine | 210 mg, 69% | C(C)(C)(C)[Si](O[C@H]1C2(CC2)CCN(C1)CCCNCC(OC)OC)(C)C | C20H42N2O3Si
